* C:\Users\frisc\Documents\GitHub\CW-Tracker\Transmitter\Simulations\class-A-220MHz.asc
R3 N003 0 15k
R4 N001 N003 62k
Q2 N002 N003 N004 0 2N2222
R5 N004 0 100
R6 N001 N002 510
V1 N001 0 10
.model NPN NPN
.model PNP PNP
.lib C:\Users\frisc\AppData\Local\LTspice\lib\cmp\standard.bjt
.model BFR193 NPN(IS=0.2738 VAF=24 NE=1.935 VAR=3.8742 NC=0.94371 RBM=1 CJE=1.1824 TF=18.828 ITF=0.96893 VJC=1.1828 TR=1.0037 MJS=0 XTI=3 BF=125 IKF=0.26949 BR=14.267 IKR=0.037925 RB=1.8368 RE=0.76534 VJE=0.70276 XTF=0.69477 PTF=0 MJC=0.30002 CJS=0 XTB=0 FC=0.72063 NF=0.95341 ISE=10.627 NR=1.4289 ISC=0.037409 IRB=0.91763 RC=0.11938 MJE=0.48654 VTF=0.8 CJC=935.03 XCJC=0.053563 VJS=0.75 EG=1.11 TNOM=300)
.tran 0 100m 90m
* https://www.futurlec.com/Datasheet/Transistor/BFR193.pdf
.backanno
.end
